US09169295B2
N,N′-(Ethane-1,2-diylbis(azanediyl))bis(thioxomethylene)dibenzamide
To an ice cold solution of ethane-1,2-diamine (2.23 g, 37.1 mmol) in CH2Cl2 (100 mL) is added benzoyl isothiocyanate (12.41 g, 76 mmol) dropwise and the resulting suspension is stirred at room temp for 18 h. The reaction is filtered thru a ground glass frit and the resulting solid is washed with CH2Cl2 to give 10.2 g (71%) of the title compound as a white solid. LC/MS (Condition A): ret. T=3.67 min, (M+H)+ 387.13. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.98 (2 H, br. s.), 7.86-8.01 (4 H, m), 7.60-7.72 (2 H, m), 7.47-7.58 (4 H, m), 3.88-4.09 (4 H, m).

reactant | ethane-1,2-diamine | 37.1 mmol, 2.23 g | C(CN)N | C2H8N2
reactant | benzoyl isothiocyanate | 76 mmol, 12.41 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N,N′-(Ethane-1,2-diylbis(azanediyl))bis(thioxomethylene)dibenzamide | 10.2 g, 71% | C(CNC(=S)NC(C1=CC=CC=C1)=O)NC(=S)NC(C1=CC=CC=C1)=O | C18H18N4O2S2
